US07199147B2
Tributyltin hydride (1.99 ml, 7.40 mmol) and 2,2′-azobis(isobutyronitrile) (8 mg) were added to a solution of 2-[(1R, 2S, 3S)-2-bromo-3-hydroxycyclohexyl]-1H-isoindole-1,3(2H)-dione (2.0 g, 6.17 mmol) in a mixture of toluene (40 ml) and methanol (4 ml) at room temperature, and the resulting mixture was refluxed for 3 hours. Tributyltin hydride (1.99 ml, 7.40 mmol) and 2,2′-azobis(isobutyronitrile) (8 mg) were further added thereto, and the resulting mixture was refluxed for 1 hour. The reaction solution was concentrated and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=2/1) to obtain cis-2-(3-hydroxycyclohexyl)-1H-isoindole-1,3(2H)-dione (1.33 g, 88%).

reactant | Tributyltin hydride | 7.40 mmol, 1.99 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 2-[(1R, 2S, 3S)-2-bromo-3-hydroxycyclohexyl]-1H-isoindole-1,3(2H)-dione | 6.17 mmol, 2.0 g | Br[C@H]1[C@@H](CCC[C@@H]1O)N1C(C2=CC=CC=C2C1=O)=O | C14H14BrNO3
reactant | Tributyltin hydride | 7.40 mmol, 1.99 ml | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 4 ml | CO | CH4O
catalyst | 2,2′-azobis(isobutyronitrile) | 8 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
catalyst | 2,2′-azobis(isobutyronitrile) | 8 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | cis-2-(3-hydroxycyclohexyl)-1H-isoindole-1,3(2H)-dione | 1.33 g, 88% | O[C@H]1C[C@H](CCC1)N1C(C2=CC=CC=C2C1=O)=O | C14H15NO3
